US06294558B1
2-Methyl-4-[4-chloro-1-[3-fluoro-4-(methylsulfonyl)phenyl]-3-(trifluoromethyl)-1H-pyrazol-5-yl]phenyl trifluoromethanesulfonate (step 2)
To a stirred solution of 2-methyl-4-[1-[3-fluoro-4-(methylsulfonyl)phenyl]-3-(trifluoromethyl)-1H-pyrazol-5-yl]phenyl trifluoromethanesulfonate (0.185 g, 0.339 mmol) in DMF (2 mL) was added N-chlorosuccinimide (0.227 g, 1.70 mmol) at 0° C. The reaction mixture was warmed to room temperature and stirred for 72 hours. The reaction mixture was added water (20 mL) and extracted with ethyl acetate/hexane/ether=2/1/1 (20 mL×2). The organic layer was washed with water and brine. After dried over MgSO4 and concentration in vacuo. The crude mixture was purified by flash chromatography eluting with hexane/ethyl acetate (4/1) to give the subtitle compound (0.117 g, 59.7% yield).

reactant | 2-methyl-4-[1-[3-fluoro-4-(methylsulfonyl)phenyl]-3-(trifluoromethyl)-1H-pyrazol-5-yl]phenyl trifluoromethanesulfonate | 0.339 mmol, 0.185 g | FC(S(=O)(=O)OC1=C(C=C(C=C1)C1=CC(=NN1C1=CC(=C(C=C1)S(=O)(=O)C)F)C(F)(F)F)C)(F)F | C19H13F7N2O5S2
reactant | N-chlorosuccinimide | 1.70 mmol, 0.227 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | water | 20 mL | O | H2O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 2-Methyl-4-[4-chloro-1-[3-fluoro-4-(methylsulfonyl)phenyl]-3-(trifluoromethyl)-1H-pyrazol-5-yl]phenyl trifluoromethanesulfonate | 0.117 g, 59.7% yield | FC(S(=O)(=O)OC1=C(C=C(C=C1)C1=C(C(=NN1C1=CC(=C(C=C1)S(=O)(=O)C)F)C(F)(F)F)Cl)C)(F)F | C19H12ClF7N2O5S2
